US20010053851A1
A solution of 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid methyl ester (440 mg, 1.32 mmol) in methanol (3 mL), water (2 mL), and tetrahydrofuran (0.5 mL) was treated with lithium hydroxide (38 mg, 0.90 mmol). The reaction mixture was stirred at 25° C. for 60 h. At this time, additional lithium hydroxide (38 mg, 0.90 mmol) was added. The reaction was stirred at 25° C. for 4 h. At this time, the reaction was diluted with water (5 mL) and then concentrated in vacuo. The resulting aqueous layers were washed with ethyl acetate (2×10 mL), acidified with a 1N aqueous hydrochloric acid solution, and then extracted with ethyl acetate (2×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid (390 mg, 92%) as an amber foam: EI-HRMS m/e calcd for C20H20N2O2 (M+) 320.1524, found 320.1526.

reactant | 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid methyl ester | 1.32 mmol, 440 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CC=1C=NC=NC1)=O | C21H22N2O2
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.90 mmol, 38 mg | [OH-].[Li+]
reactant | lithium hydroxide | 0.90 mmol, 38 mg | [OH-].[Li+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 3-cyclopentyl-2-(4-pyrimidin-5-ylethynyl-phenyl)-propionic acid | 390 mg, 92% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CC=1C=NC=NC1 | C20H20N2O2
